US07094801B2
Ex-78A: A suspension of 4-acetylbenznitrile (2.9 g, 20.0 mmol), sodium azide (1.43 g, 22.0 mmol) and zinc bromide (4.5 g, 20.0 mmol) in water (50 mL) was refluxed for one day. Additional water (40 mL), HCl (3M, 30 mL) and EtOAc (200 mL) were added subsequently. The mixture was stirred until no solid in the aqueous layer. The mixture was then portioned. The aqueous solution was further extracted with EtOAc (3×60 mL). The combined EtOAc was concentrated. The residue was treated with NaOH (0.25 M, 200 mL). After stirred for 50 min, insoluble material was filtered, washed with NaOH (1M). The filtrate was then acidified with HCl (conc.) to pH 3. The resulting white precipitate was filtered, washed with water and dried in vacuo to obtain 1-[4-(2H-tetrazol-5-yl)-phenyl]-ethanone as white solid. 1H NMR (DMSO-d6) δ 8.17–8.10 (m, 4H), 2.61 (s, 3H). MS m/z=188 (M+).

reactant | 4-acetylbenznitrile | 20.0 mmol, 2.9 g | C(C)(=O)C1=CC=C(C#N)C=C1 | C9H7NO
reactant | sodium azide | 22.0 mmol, 1.43 g | [N-]=[N+]=[N-].[Na+]
reactant | HCl | 3M, 30 mL | Cl | ClH
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | zinc bromide | 20.0 mmol, 4.5 g | [Br-].[Zn+2].[Br-]
solvent | water | 40 mL | O | H2O
product | 1-[4-(2H-tetrazol-5-yl)-phenyl]-ethanone | N=1NN=NC1C1=CC=C(C=C1)C(C)=O | C9H8N4O
